wheatstone_bridge - fault test
V1 pos 0 DC 20
C1 pos mid1 6.46e-06
R3 mid1 0 197.859737
R2 pos mid2 148.051026
R4 mid2 0 303.892404
Rg mid1 mid2 50.127783
.op
.control
run
print v(mid1) v(mid2) v(pos)
print @r3[i] @r2[i] @r4[i] @rg[i]
.endc
.end
